Name:  ___.                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Patient presents for elective admission to receive MiDAC 
consolidation.
 
Major Surgical or Invasive Procedure:
Tunneled catheter placement

 
History of Present Illness:
Mr. ___ is a pleasant ___ y/o male dx with AML in ___
after presenting with dyspnea, fatigue, and pancytopenia.  The
patient underwent initial bone marrow biopsy consistent with
hypercellular marrow 28% blasts, normal cytogenetics, FLT3 and
NPM1 negative intermediate risk disease. He was enrolled on
clinical trial protocol ___ and randomized to induction 7+3
initiated on ___. Day 14 marrow was ablative with no blasts,
day 28 marrow is still pending.  He was admitted ___ to
initate MiDAC consolidation.

 
Past Medical History:
Prostatitis in ___ 
Seizure vs. Syncope - ___, holter, MRI/MRA, EEG all negative
Lyme Disease in ___
 
Social History:
___
Family History:
Brother Alive ___ 
Father ___ at ___ Cancer; Diabetes - Unknown Type 
Mother ___ at ___
 
Physical Exam:
Admission PE

VITALS - 97.4, 110/68, 73, 18, 97%, admit wt 172.5 I-1200, O- 
BRP

General: NAD A&O x3 comfortable
HEENT:  oropharynx moist mucous membranes, no lesions, ulcers,
signs of infection
Breast: fibrotic tissue palpable of left outer quadrant, no firm
nodule palpable, no skin abnormalities, no edema. 
Neck: supple  
CV:  S1 S2 audible, RRR no m/r/g
Lungs: CTA b/l no adventicious sounds
Abdomen: soft NT ND normoactive BS x 4
Ext:  no c/c/e 
Neuro: CN II-XII grossly intact. fingertip to nose touch intact.
signature appropriate. rombergs negative, rapid hand movement
appropriate.
Access: right central tunneled catheter clean dry intact. no
erythema, edema, drainage.

 
Pertinent Results:
___ 12:10AM BLOOD WBC-2.6* RBC-2.66* Hgb-8.4* Hct-24.2* 
MCV-91 MCH-31.5 MCHC-34.5 RDW-18.0* Plt ___
___ 11:40AM BLOOD WBC-6.3 RBC-3.81* Hgb-11.5* Hct-35.6* 
MCV-94 MCH-30.3 MCHC-32.3 RDW-18.5* Plt ___
___ 12:10AM BLOOD Neuts-92.1* Lymphs-4.4* Monos-2.0 Eos-0.7 
Baso-0.8
___ 11:40AM BLOOD Neuts-75.7* Lymphs-16.0* Monos-6.5 
Eos-0.4 Baso-1.5
___ 12:10AM BLOOD Plt ___
___ 11:40AM BLOOD ___ PTT-31.5 ___
___ 12:10AM BLOOD Glucose-135* UreaN-13 Creat-0.6 Na-138 
K-3.9 Cl-104 HCO3-26 AnGap-12
___ 11:40AM BLOOD UreaN-15 Creat-0.9 Na-139 K-4.8 Cl-104 
HCO3-31 AnGap-9
___ 12:10AM BLOOD ALT-104* AST-72* LD(___)-252* AlkPhos-104 
TotBili-0.5
___ 11:40AM BLOOD ALT-74* AST-35 LD(LDH)-202 AlkPhos-113 
TotBili-0.4
___ 12:10AM BLOOD Calcium-8.3* Phos-2.6* Mg-1.9
___ 11:40AM BLOOD TotProt-7.4 Albumin-4.1 Globuln-3.3 
Calcium-9.7 Phos-3.4 Mg-2.4 UricAcd-5.___ y/o male dx with AML NPM and FLT3 neg,
intermediate risk, normal cytogenetics admitted for MiDAC
consolidation on protocol ___.

#AML. Admit for MiDAC consolidation. Day 14 marrow ablative, day
28 marrow consistent with hypercellular marrow 1%blasts, flow
negative. concern for myeloproliferative disorder, bcr-abl and
JAK-2 pending. Discussed with attending, possible presented 
prior
to AML dx. will follow up with testing.  Patient initated
cytarabine 1500 mg/m2 q 12hrs x 12 doses, day ___. Currently has
received dose ___ this morning. Neurologic exam within normal
limits prior to dose 12 this am. Supportive antiemetics with 
zofran 16mg IV q 24hrs, lorazepam prn. Prednisolone 1% ___ BID 
starting before the first dose of
cytarabine and completing at least 48 hours after the last dose 
of therapy. Discharged with 3 days of prednisolone.

Patient will follow up with lab checks on ___, 
___ next week and see NP later in the week.  The patient will 
begin neupogen daily 24hrs after his last dose of ara-c.  He 
will continue neupogen daily until his ANC is greater than or 
equal to 500 for 3 consecutive days.  He will also be discharged 
home on ciprofloxacin but will not begin taking this until he is 
neutropenic.  This will be followed up outpatient.

#Pulmonary nodules on CT scan.  During last admission, patient
developed persistent neutropenic fevers.  CT of chest shown
multiple nodules with concern for viral pneumonia. Fevers
resolved with count recovery, asymptomatic. Repeat CT of chest
___ shown near complete resolution of nodules.

# Infection ___: acyclovir for viral ___, fluconazole for 
fungal ___ watch LFTs, will initiate cipro once 
neutropenic. 

#transaminitis. fluctuanting. will continue to watch
and monitor outpatient, discussed with team. will continue 
flucanzole upon discharge.

# L breast nodule.  w/u includes breast u/s, CT of chest,
mammogram.  all diagnostic studies consistent with likely
hematoma, probable benign. bx if indicated.  no acute concern,
resolving.

# ACCESS: R tunneled ___ catheter
# CODE: Confirmed Full
# EMERGENCY CONTACT: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Omeprazole 20 mg PO DAILY 
3. Lorazepam 0.5 mg IV Q4H:PRN anxiety nausea insomnia 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily as 
needed Disp #*30 Capsule Refills:*2
3. Filgrastim 480 mcg SC Q24H 
RX *filgrastim [Neupogen] 480 mcg/0.8 mL ___aily 
Disp #*14 Syringe Refills:*5
4. Lorazepam 0.5-1 mg PO Q4H:PRN Anxiety, Insomnia, Nausea 
5. PrednisoLONE Acetate 1% Ophth. Susp. 2 DROP BOTH EYES QID 
Duration: 10 Days 
RX *prednisolone acetate 1 % 2 drops ___ four times a day Disp 
#*1 Bottle Refills:*0
6. Fluconazole 400 mg PO Q24H 
7. Ciprofloxacin HCl 500 mg PO BID 
do not take until instructed to do so by your oncologist 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*2

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Leukemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to receive MiDAC chemotherapy.  You tolerated 
this well.  You will follow up in the transfusion clinic 
tomorrow to check your labs. You will see ___ NP later in 
the week.  Please call in the interm with any questions or 
concerns.  It was a pleasure taking care of you.
 
Followup Instructions:
___